US04601836
Using the same screening procedure, 40 ml. of 15 wt. % HCl was mixed with 5 ml. of a phosphate ester surfactant sold under the trade name Klearfac AA-420 by BASF Wyandotte Corporation and identified (see Toxic Substances Control Act (TSCA) Chemical Substance Inventory, vol III, "User Guide and Indices to the Initial Inventory; Substance Name Index", May 1979) as oxirane, methyl-, polymer with oxirane, mono-C12 -C18 -alkyl ethers, phosphates consistent with the formulas (1) and (2). A clear solution with slight foam resulted. The first three additions of 1 ml. aliquots of isooctyl alcohol were solubilized resulting in a clear solution. The fourth ml. produced a hazy stable mixture and the fifth a stable emulsion. After a total of 5 ml. of isooctyl alcohol added and fifteen minutes of standing, 1 ml. of clear oil separated on top. The performance of this phosphate ester surfactant appears superior to other surfactants previously tested.

reactant | HCl | Cl | ClH
reactant | TSCA | C1=CC2=C3C(=CC=C4C3=C1C(=O)C(C4=O)Br)C(=O)C(C2=O)Br | C16H6Br2O4
reactant | oxirane | O1CC1 | C2H4O
product | isooctyl alcohol | C(CCCCC(C)C)O | C8H18O
